US07576094B2
A solution of 6-hydroxy-7,8-dimethyl-4H-spiro[chromene-3, 1′-cyclopropan]-4-one (10 mg), prepared as described above, methoxyamine hydrochloride (110 mg) in pyridine (3 mL) was stirred in a microwave reaction tube (200° C., 30 min). After cooling down, the mixture was partitioned between water and ethylacetate, and the organic layer was washed with dil. HCl, dried, and evaporated. The residue was purified by silica gel column eluting with 15% EtOAc in hexane to give a 3.6 mg of 6-hydroxy-7,8-dimethylspiro[chroman-3,1′-cyclopropan]-4-one O-methyl oxime.

reactant | 6-hydroxy-7,8-dimethyl-4H-spiro[chromene-3, 1′-cyclopropan]-4-one | 10 mg | OC=1C=C2C(C3(CC3)COC2=C(C1C)C)=O | C13H14O3
reactant | methoxyamine hydrochloride | 110 mg | Cl.CON
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 6-hydroxy-7,8-dimethylspiro[chroman-3,1′-cyclopropan]-4-one O-methyl oxime | 3.6 mg | CON=C1C2=CC(=C(C(=C2OCC12CC2)C)C)O | C14H17NO3
